* C:\Users\seijirom\Dropbox\work\LRmasterSlice\pipe_line_ADC\Draft5.asc
XX1 N002 N003 N005 N004 N001 N006 comp_inv_tgate
V1 N001 0 1.6v
V2 N006 0 -1.6v
V3 N003 0 PWL(0 5mv 7m 5mv 7.001m -2mv 14m -2mv 14.001m 1mv 21m 1mv 21.001m -500uv)
V4 N002 0 PULSE(-1.6 1.6 1m 1u 1u 2m 7m)
V5 N005 0 PULSE(-1.6 1.6 4m 1u 1u 2m 7m)

* block symbol definitions
.subckt comp_inv_tgate C COMP_IN R COMP_OUT DVDD DVSS
XX1 N004 DVDD DVSS N002 inv_ph
XX2 R N003 N001 N002 DVDD DVSS t_gate
XX3 C N005 N002 COMP_OUT DVDD DVSS t_gate
XX4 C N005 COMP_IN N001 DVDD DVSS t_gate
XX5 R DVDD DVSS N003 inv_ph
XX6 C DVDD DVSS N005 inv_ph
C1 N004 N001 100p
.ends comp_inv_tgate

.subckt inv_ph A DVDD DVSS Y
M助1 DVDD A Y DVDD pch l=1u w=4u m=1
M助2 Y A DVSS DVSS nch l=1u w=1u m=1
.ends inv_ph

.subckt t_gate SW SW_X A B DVDD DVSS
M助1 B SW_X A DVDD pch l=1u w=4u m=8
M助2 A SW B DVSS nch l=1u w=1u m=8
.ends t_gate

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\seijirom\Documents\LTspiceXVII\lib\cmp\standard.mos
.include "PK35_minimum_tt.lib"
.param mismatch=1 mos_sigma_global=1
.tran 0 28m 0 1u
.backanno
.end
