* Z:\home\seijirom\Dropbox\work\LRmasterSlice\pipe_line_ADC\t_gate.asc

.subckt t_gate SW SW_X A B DVDD DVSS
M§U1 A SW_X B DVDD pch l=1u w=4u m=8
M§U2 A SW B DVSS nch l=1u w=1u m=8
.ends t_gate

