* Z:\home\seijirom\Dropbox\work\LRmasterSlice\コンパレータ\COMP_NLF.asc

.subckt comp_nlf INP INN XSTBY OUT VDDA VSSA
M6 STBY xstby VSSA VSSA nch l=1.0u w=5.0u pd=w+l+l ps=pd ad=w*l as=ad m=1
M9 VDDA xstby STBY VDDA pch l=1.0u w=10.0u pd=w+l+l ps=pd ad=w*l as=ad m=1
M_18 N001 N004 N012 vssa nch l=1.2u w=10.0u pd=w+l+l ps=pd ad=w*l as=ad m=1
M_14 vdda N001 N004 vdda pch l=1.2u w=54.0u pd=w+l+l ps=pd ad=w*l as=ad m=2
M_17 vdda N001 N001 vdda pch l=1.2u w=54.0u pd=w+l+l ps=pd ad=w*l as=ad m=2
M_15 N004 N004 N011 vssa nch l=1.2u w=10.0u pd=w+l+l ps=pd ad=w*l as=ad m=1
M_20 N014 XSTBY vssa vssa nch l=1.2u w=24u pd=w+l+l ps=pd ad=w*l as=ad m=1
M_19 N012 N011 N014 vssa nch l=1.2u w=30.0u pd=w+l+l ps=pd ad=w*l as=ad m=1
M_16 N011 N011 vssa vssa nch l=1.2u w=30.0u pd=w+l+l ps=pd ad=w*l as=ad m=1
M_4 vdda N003 N005 vdda pch l=1.2u w=36.0u pd=w+l+l ps=pd ad=w*l as=ad m=1
M_5 N013 N010 vssa vssa nch l=1.2u w=54.0u pd=w+l+l ps=pd ad=w*l as=ad m=1
M_8 vdda N005 N008 vdda pch l=1.2u w=40.0u pd=w+l+l ps=pd ad=w*l as=ad m=6
M_7 N008 N010 vssa vssa nch l=1.2u w=90.08u pd=w+l+l ps=pd ad=w*l as=ad m=2
M_100 out N009 vssa vssa nch l=1.2u w=90.0u ad=w*l as=ad pd=w+l+l ps=pd m=2
M_101 vdda N009 out vdda pch l=1.2u w=40.0u pd=w+l+l ps=pd ad=w*l as=ad m=6
C2 N008 N007 1p
C7 out N008 1p
M29 N008 STBY N009 vdda pch l=1.0u w=20.0u pd=w+l+l ps=pd ad=w*l as=ad m=1
M30 N009 XSTBY N008 vssa nch l=1.0u w=12.u pd=w+l+l ps=pd ad=w*l as=ad m=1
M31 N009 STBY VSSA VSSA nch l=1.0u w=12.u pd=w+l+l ps=pd ad=w*l as=ad m=1
M_13 vdda N001 N010 vdda pch l=1.2u w=54.0u pd=w+l+l ps=pd ad=w*l as=ad m=1
M_11 vdda N002 N002 vdda pch l=1.2u w=72.0u pd=w+l+l ps=pd ad=w*l as=ad m=1
M_10 N002 N006 N006 vdda pch l=1.2u w=72.0u pd=w+l+l ps=pd ad=w*l as=ad m=1
M_12 N010 N010 vssa vssa nch l=1.2u w=54.0u pd=w+l+l ps=pd ad=w*l as=ad m=1
M_9 N006 N010 vssa vssa nch l=1.2u w=54.0u pd=w+l+l ps=pd ad=w*l as=ad m=1
M_1 N003 inp N013 vssa nch l=1.2u w=6.0u pd=w+l+l ps=pd ad=w*l as=ad m=1
M_2 N005 inn N013 vssa nch l=1.2u w=6.0u pd=w+l+l ps=pd ad=w*l as=ad m=1
M_3 vdda N003 N003 vdda pch l=1.2u w=36.0u pd=w+l+l ps=pd ad=w*l as=ad m=1
M_6 N005 N006 N007 vdda pch l=1.2u w=55.0u pd=w+l+l ps=pd ad=w*l as=ad m=1
.ends comp_nlf

